US04306096
PREPARATION OF CYCLOHEXYL PHENETHYLETHER
Into a 2 liter reaction vessel equipped with stirrer, thermometer, heating mantle and overhead condenser with azeotrope takeoff apparatus is placed 488 grams of betaphenylethyl alcohol; 440 grams of cyclohexanol and 100 grams of concentrated sulfuric acid. The reaction mass is then heated to a temperature of 115° C. and maintained at a temperature in the range of 104°-127° C. at reflux while azeotropically removing 80 ml water, for a period of 3 hours. At the end of the 3 hour period, a sample is analyzed by means of GLC analysis (conditions: 180° C. isothermal using an SE-30 packed column). FIG. 1A is the GLC profile of the reaction product at this point.

reactant | betaphenylethyl alcohol | 488 grams | C1(=CC=CC=C1)CCO | C8H10O
reactant | cyclohexanol | 440 grams | C1(CCCCC1)O | C6H12O
reactant | sulfuric acid | 100 grams | S(O)(O)(=O)=O | H2O4S
product | CYCLOHEXYL PHENETHYLETHER | C1(CCCCC1)OCCC1=CC=CC=C1 | C14H20O
